US08076345B2
5-Bromo-2-(4-((6-methoxypyridin-3-yl)methylamino)-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzonitrile
A mixture of N-((6-methoxypyridin-3-yl)methyl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-4-amine (350 mg, 1.3 mmol), 5-bromo-2-fluorobenzonitrile (640 mg, 3.2 mmol), N,N-diisopropylethylamine (0.67 mL, 3.9 mmol), and acetonitrile (4 mL) was subjected to microwave irradiation at 180° C. for 3 h. After that additional 5-bromo-2-fluorobenzonitrile (450 mg) was added and the mixture was subjected to microwave irradiation at 180° C. for another 2 h. After cooling, the mixture was diluted with EtOAc (100 mL) and washed with aq. Na2CO3 solution and brine, dried (Na2SO4) and concentrated. The residue was purified by silica gel column (EtOAc: 100%) to yield a light yellow solid.

reactant | N-((6-methoxypyridin-3-yl)methyl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-4-amine | 1.3 mmol, 350 mg | COC1=CC=C(C=N1)CNC=1C2=C(N=CN1)CCNC2 | C14H17N5O
reactant | 5-bromo-2-fluorobenzonitrile | 3.2 mmol, 640 mg | BrC=1C=CC(=C(C#N)C1)F | C7H3BrFN
reactant | N,N-diisopropylethylamine | 3.9 mmol, 0.67 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | acetonitrile | 4 mL | C(C)#N | C2H3N
reactant | 5-bromo-2-fluorobenzonitrile | 450 mg | BrC=1C=CC(=C(C#N)C1)F | C7H3BrFN
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 5-Bromo-2-(4-((6-methoxypyridin-3-yl)methylamino)-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzonitrile | BrC=1C=CC(=C(C#N)C1)N1CC2=C(N=CN=C2NCC=2C=NC(=CC2)OC)CC1 | C21H19BrN6O
